US04304770
Water (500 ml.) was added to hexylamine (490.0 g.) and a solution of sodium hydroxide (193.6 g.) in water (700 ml.) was added thereto under ice-cooling and stirring. Carbon disulfide (367.8 g.) was added dropwise thereto over 2 hours at 2° to 10° C. and then methyl iodide (687.3 g.) was added dropwise thereto over 1 hour at 0° to 5° C. The resulting mixture was stirred for 30 minutes at the same temperature and for 2 hours at ambient temperature. The reaction mixture was extracted with diethyl ether (1.5 l.). The extract was washed with a saturated aqueous solution of sodium chloride (300 ml.), dried over magnesium sulfate and concentrated to give an oil of methyl N-hexyldithiocarbamate (825.5 g.).

reactant | hexylamine | 490.0 g | C(CCCCC)N | C6H15N
reactant | sodium hydroxide | 193.6 g | [OH-].[Na+]
reactant | Carbon disulfide | 367.8 g | C(=S)=S | CS2
reactant | methyl iodide | 687.3 g | CI | CH3I
solvent | water | 700 ml | O | H2O
solvent | Water | 500 ml | O | H2O
product | methyl N-hexyldithiocarbamate | 825.5 g | C(CCCCC)NC(SC)=S | C8H17NS2
